US07589205B2
E1. 2-(3-Ethoxy-4-methoxy-phenyl)-1,4-pentadien-3-one
According to the General Procedure B, MnO2 (1.63 g, 18.70 mmol) and 2-(3-ethoxy-4-methoxyphenyl)-1,4-pentadien-3-ol (200 mg, 0.85 mmol) are converted to give after workup and chromatography (SiO2, PE/EE=2:1, Rf=0.40) the title compound (110 mg, 0.50 mmol) as a yellow oil; C14H16O3 (232.27).

reactant | 2-(3-ethoxy-4-methoxyphenyl)-1,4-pentadien-3-ol | 0.85 mmol, 200 mg | C(C)OC=1C=C(C=CC1OC)C(=C)C(C=C)O | C14H18O3
catalyst | MnO2 | 18.70 mmol, 1.63 g | O=[Mn]=O
product | 2-(3-Ethoxy-4-methoxy-phenyl)-1,4-pentadien-3-one | 0.50 mmol, 110 mg | C(C)OC=1C=C(C=CC1OC)C(=C)C(C=C)=O | C14H16O3
